US05308853
Diethyl 1-hexyl-2,5-dioxo-4-imidazolylphosphonate
To a solution of diethyl 2,5-dioxo-4-imidazolylphosphonate (6.00 g, 0.025 moles) in DMF (15 mL), under N2, is added K2CO3 (17.5 g, 0.127 moles) and 1-iodohexane (3.75 mL, 0.025 moles). This mixture is stirred at room temperature for 16 hours. The mixture is diluted with ether (300 mL) and washed with water and brine and then dried over MgSO4. Evaporation of solvents under high vacuum affords the required product as a viscous yellow oil. (Mass spectrometry also revealed a small amount of diethyl 1,3-dihexyl-2,5-dioxo-4-imidazolylphosphonate).

reactant | diethyl 2,5-dioxo-4-imidazolylphosphonate | 0.025 moles, 6.00 g | O=C1NC(C(=N1)P(OCC)(OCC)=O)=O | C7H11N2O5P
reactant | K2CO3 | 0.127 moles, 17.5 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-iodohexane | 0.025 moles, 3.75 mL | ICCCCCC | C6H13I
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | ether | 300 mL | CCOCC | C4H10O
product | Diethyl 1-hexyl-2,5-dioxo-4-imidazolylphosphonate | C(CCCCC)N1C(N=C(C1=O)P(OCC)(OCC)=O)=O | C13H23N2O5P
